US09163021B2
(1E)-1-(dimethylamino)-2,4-dimethylpent-1-en-3-one
2-Methyl-3-pentanone (5 g, 49.9 mmol) and DMF-DMA (10 mL, 74.9 mmol) were heated together in a sealed tube for 4 days. The reaction was concentrated in vacuo to afford an orange oil that was used directly in the next reaction (1.64 g, 21%).

reactant | 2-Methyl-3-pentanone | 49.9 mmol, 5 g | CC(C)C(CC)=O | C6H12O
reactant | DMF-DMA | 74.9 mmol, 10 mL | CN(C)C(OC)OC | C5H13NO2
product | (1E)-1-(dimethylamino)-2,4-dimethylpent-1-en-3-one | CN(\C=C(\C(C(C)C)=O)/C)C | C9H17NO
